US08138215B2
The following diazotization step was adapted from Barton, A.; Breukelman, S. P.; Kaye, P, T.; Meakins, G. D.; Morgan, D. J. J. C. S. Perkin Trans 11982, 159-164: A solution of NaNO2 (150 mg, 2.17 mmol) in water (1.0 mL) was added dropwise to a stirred, cold (0° C.) solution of methyl 2-amino-5-ethyl-1,3-thiazole-4-carboxylate (186 mg, 1.0 mmol) in 50% H3PO2 (3.2 mL). The mixture was stirred at 0° C. for 1 h and allowed to warm up to room temperature where it stirred further for 2 h. After recooling to 0° C., the mixture was treated slowly with a solution of NaOH (85 mg) in water (10 mL). The mixture was then diluted with saturated NaHCO3 solution and extracted twice with ether. The organic layers were combined, dried over MgSO4 and concentrated to give methyl 5-ethylthiazole-4-carboxylate (i.e. Cap-173, step a) (134 mg, 78%) as an orange oil (85% pure) which was used directly in the next reaction. Rt=1.58 min (Cond.-MD1); LC/MS: Anal. Calcd. for [M+H]+ C7H10NO2S: 172.05; found: 172.05.

reactant | NaNO2 | 2.17 mmol, 150 mg | N(=O)[O-].[Na+]
reactant | methyl 2-amino-5-ethyl-1,3-thiazole-4-carboxylate | 1.0 mmol, 186 mg | NC=1SC(=C(N1)C(=O)OC)CC | C7H10N2O2S
reactant | NaOH | 85 mg | [OH-].[Na+]
solvent | water | 1.0 mL | O | H2O
solvent | H3PO2 | 3.2 mL | O[PH2]=O | H3O2P
solvent | water | 10 mL | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | methyl 5-ethylthiazole-4-carboxylate | C(C)C1=C(N=CS1)C(=O)OC | C7H9NO2S
